US05863947
A stirred mixture of 4-cyano-2-(2-thienyl)benzaldehyde (0.50 g, 2.3 mmol), ammonium carbonate (0.90 g, 9.4 mmol) and potassium cyanide (0.30 g, 4.7 mmol) in ethanol-water (1:1, 10 ml) was heated to 85° C. for 16 hours in a sealed vessel. After cooling, the mixture was diluted with water and cautiously acidified to precipitate a brown lumpy solid on standing. The product was filtered and triturated with dichloromethane (10 ml) to give 4-cyano-2-(2-thienyl)phenyl hydantoin as a brown solid, m.p. 189° C.

reactant | 4-cyano-2-(2-thienyl)benzaldehyde | 2.3 mmol, 0.50 g | C(#N)C1=CC(=C(C=O)C=C1)C=1SC=CC1 | C12H7NOS
reactant | ammonium carbonate | 9.4 mmol, 0.90 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | potassium cyanide | 4.7 mmol, 0.30 g | [C-]#N.[K+]
reactant | ethanol water | 10 ml | C(C)O.O
solvent | water | O | H2O
product | 4-cyano-2-(2-thienyl)phenyl hydantoin | C(#N)C1=CC(=C(C=C1)N1C(=O)NC(=O)C1)C=1SC=CC1 | C14H9N3O2S
